US07582123B2
Synthesis of N-{(6E)-6-[(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazol-4-yl)imino]-3-oxocyclohexa-1,4-dien-1-yl}acetamide
10 mmol of 4-amino-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one was dissolved in 30 ml of water. This solution was admixed with 10 mmol of N-(3-hydroxyphenyl)acetamide in solution in 30 ml of 2-propanol, 3 ml of 20% aqueous ammonia and 22 mmol of potassium ferricyanide at a temperature ranging from 5 to 10° C.

reactant | 4-amino-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one | 10 mmol | NC=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C11H13N3O
reactant | N-(3-hydroxyphenyl)acetamide | 10 mmol | OC=1C=C(C=CC1)NC(C)=O | C8H9NO2
reactant | ammonia | 3 ml | N | H3N
solvent | water | 30 ml | O | H2O
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
catalyst | potassium ferricyanide | 22 mmol | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | N-{(6E)-6-[(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazol-4-yl)imino]-3-oxocyclohexa-1,4-dien-1-yl}acetamide | CN1N(C(C(=C1C)\N=C\1/C=CC(C=C1NC(C)=O)=O)=O)C1=CC=CC=C1 | C19H18N4O3
